US06399616B1
Step 1: 2-(5-Bromo-1H-indol-3-yl)ethanol
A solution of 6 g of N-tert-butoxycarbonyl-5-bromo-3-ethoxycarbonylmethylindole in 50 ml of tetrahydrofuran is added dropwise to a suspension, cooled to 0° C., of 0.9 g of LiAlH4 in 35 ml of tetrahydrofuran. After stirring for 20 hours at ambient temperature, the mixture is cooled to 0° C. and then treated in succession with 0.9 ml of water, 3,2 ml of an aqueous 20% sodium hydroxide solution and 3.6 ml of water. After filtration and concentration of the filtrate in vacuo, the residue is chromatographed on silica gel (dichloromethane/ethyl acetate: 90/10), enabling the expected product to be isolated.

reactant | N-tert-butoxycarbonyl-5-bromo-3-ethoxycarbonylmethylindole | 6 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)Br)CC(=O)OCC | C17H20BrNO4
reactant | LiAlH4 | 0.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.9 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 3.6 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 2-(5-Bromo-1H-indol-3-yl)ethanol | BrC=1C=C2C(=CNC2=CC1)CCO | C10H10BrNO
